US07459448B2
2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid (3-amino-propyl)-amide (I-76)
In a manner similar to that described in Method N, 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid (I-43) and 3-amino-propyl-carbamic acid tert-butyl ester were converted to (3-{[2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carbonyl]-amino}-propyl)-carbamic acid tert-butyl ester, which was subsequently deprotected (Method K) and purified by C-18 RP LC-MS chromatography to give I-76 (14%): HRMS Calcd. for C24H26N6O4: 463.2093, Found 463.2085.

reactant | 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC(=C3)C(=O)O)N1 | C21H18N4O5
reactant | 3-amino-propyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN)=O | C8H18N2O2
reactant | (3-{[2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carbonyl]-amino}-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCNC(=O)C1=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C=C1)=O | C29H34N6O6
product | 2-(3,4-Dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid (3-amino-propyl)-amide | NCCCNC(=O)C1=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C=C1 | C24H26N6O4
